US04544667
5-(4-Morpholinylmethyl)-2-sulfamoylbenzo[b]furan
A stirred solution of morpholine and triethylamine in methanol is treated with 5-bromomethyl-2-sulfamoylbenzo[b]furan to give the subject compound.

reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 5-bromomethyl-2-sulfamoylbenzo[b]furan | BrCC1=CC2=C(OC(=C2)S(N)(=O)=O)C=C1 | C9H8BrNO3S
solvent | methanol | CO | CH4O
product | 5-(4-Morpholinylmethyl)-2-sulfamoylbenzo[b]furan | N1(CCOCC1)CC1=CC2=C(OC(=C2)S(N)(=O)=O)C=C1 | C13H16N2O4S
